US05707994
(1) (1-t-Butoxycarbonyl-4-piperidyl)methylamine
4-Piperidylmethylamine (1.0 g) is dissolved in DMF (20 ml), and thereto are added 18-crown-6 (3.47 g), p-toluenesulfonic acid monohydrate (3.66 g) and triethylamine (1.46 ml) under ice-cooling, and the mixture is stirred for two hours. To the mixture is added di-t-butyl dicarbonate (2.29 g), and the mixture is further stirred for two hours. The mixture is evaporated under reduced pressure to remove the solvent, and 10% aqueous citric acid solution is added to the residue. The mixture is washed twice with ether, and the aqueous layer is basified with sodium hydrogen carbonate. The mixture is extracted three times with ethyl acetate, and the organic layer is dried over anhydrous sodium sulfate. The desiccant is removed by filtration, and the filtrate is concentrated under reduced pressure to give the title compound (1.46g).

reactant | 4-Piperidylmethylamine | 1.0 g | N1CCC(CC1)CN | C6H14N2
reactant | 18-crown-6 | 3.47 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | p-toluenesulfonic acid monohydrate | 3.66 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | di-t-butyl dicarbonate | 2.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.46 ml | C(C)N(CC)CC | C6H15N
product | (1-t-Butoxycarbonyl-4-piperidyl)methylamine | 1.46g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
